US09402841B2
Step E: (S)-3-(1-((1-acryloylpyrrolidin-3-yl)oxy)-8-chloroisoquinolin-3-yl)-1H-1,2,4-triazol-5(4H)-one
To (S)-3-(8-chloro-1-(pyrrolidin-3-yloxy)isoquinolin-3-yl)-1H-1,2,4-triazol-5(4H)-one hydrochloride (42.6 mg, 0.116 mmol) in DCM (25 mL) was added 2,6-dimethylpyridine (37.24 mg, 0.35 mmol). The resulting mixture was cooled to −20° C. Acryloyl chloride (26.1 mg, 0.29 mmol, 10 mg/mL in dry DCM) was added dropwise and the reaction mixture was warmed to 0° C. for 30 minutes. The reaction was quenched with MeOH (5 mL) and the mixture was concentrated in vacuo. The crude product was purified by preparative HPLC to give the title compound (22.02 mg, 49.25%). 1H NMR (400 MHz, DMSO-d6) δ ppm 12.09 (s, 1H), 11.87 (s, 1H), 8.01-7.98 (m, 2H), 7.71-7.70 (d, J=4.0 Hz, 2H), 6.67-6.57 (m, 1H), 6.26-6.14 (m, 2H), 5.72-5.63 (m, 1H), 4.01-3.71 (m, 4H), 2.33-2.24 (m, 2H); ESI-MS m/z [M+H]+ 386.1.

reactant | (S)-3-(8-chloro-1-(pyrrolidin-3-yloxy)isoquinolin-3-yl)-1H-1,2,4-triazol-5(4H)-one hydrochloride | 0.116 mmol, 42.6 mg | Cl.ClC=1C=CC=C2C=C(N=C(C12)O[C@@H]1CNCC1)C1=NNC(N1)=O
reactant | 2,6-dimethylpyridine | 0.35 mmol, 37.24 mg | CC1=NC(=CC=C1)C | C7H9N
reactant | Acryloyl chloride | 0.29 mmol, 26.1 mg | C(C=C)(=O)Cl | C3H3ClO
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | (S)-3-(1-((1-acryloylpyrrolidin-3-yl)oxy)-8-chloroisoquinolin-3-yl)-1H-1,2,4-triazol-5(4H)-one | 22.02 mg, 49.25% | C(C=C)(=O)N1C[C@H](CC1)OC1=NC(=CC2=CC=CC(=C12)Cl)C1=NNC(N1)=O | C18H16ClN5O3
